US07538239B2
2-(2,5-dimethylcyclopenta-1,4-dienyl)phenyl(methanesulfonyl)amine
2-(2,5-dimethylcyclopenta-1,4-dienyl)phenylamine (0.500 g, 2.699 mmol) was melted in 5 mL of M.C, and then 0.235 g (2.969 mmol) of pyridine and 0.340 g (2.969 mmol) of methanesulfonyl chloride were added thereto. The reactants were reacted at room temperature for 7 hours. Then, 4 mL of 2 N HCl and 10 mL of M.C were added to the reaction product. The organic layer was collected and dried over MgSO4 to remove water contained therein. The solvent contained in the resultant organic layer was removed using a rotary vacuum evaporator. The product was filtered using 10 mL of diethyl ether, thereby obtaining white solid (0.482 g, 68%).

reactant | 2-(2,5-dimethylcyclopenta-1,4-dienyl)phenylamine | 2.699 mmol, 0.500 g | CC1=C(C(=CC1)C)C1=C(C=CC=C1)N | C13H15N
reactant | pyridine | 2.969 mmol, 0.235 g | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonyl chloride | 2.969 mmol, 0.340 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | HCl | 2 N, 4 mL | Cl | ClH
product | 2-(2,5-dimethylcyclopenta-1,4-dienyl)phenyl(methanesulfonyl)amine | 0.482 g, 68% | CC1=C(C(=CC1)C)C1=C(C=CC=C1)NS(=O)(=O)C | C14H17NO2S
